### PR TITLE
[Merged by Bors] - chore(NumberField/Units): make `torsionOrder` a `Nat` and prove that it is even

### PR DESCRIPTION
**Pull request by xroblot**
Originally, the order of the torsion subgroup of units of a number field was defined as a `PNat` since `rootsOfUnity` was using `PNat`. This is not the case anymore since `rootsOfUnity` is now using `NeZero` instead. Thus, we change the type of `torsionOrder` to `Nat` and add a `NeZero` instance.

As a bonus, we also prove that `torsionOrder` is even. 

This PR is part of the proof of the Analytic Class Number Formula.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Units/Basic.lean [hunk 1]
```diff
@@ -135,8 +135,11 @@ instance : Nonempty (torsion K) := One.instNonempty
 /-- The torsion subgroup is cyclic. -/
 instance [NumberField K] : IsCyclic (torsion K) := subgroup_units_cyclic _
 
-/-- The order of the torsion subgroup as a positive integer. -/
-def torsionOrder [NumberField K] : ℕ+ := ⟨Fintype.card (torsion K), Fintype.card_pos⟩
+/-- The order of the torsion subgroup. -/
+abbrev torsionOrder [NumberField K] : ℕ := Fintype.card (torsion K)
```
Comment (urkud) [inline Mathlib/NumberTheory/NumberField/Units/Basic.lean:139]: IMHO, `abbrev`s should be used very rarely. Why not just add a `NeZero` instance? BTW, can `deriving` find it?

File: Mathlib/NumberTheory/NumberField/Units/Basic.lean [hunk 2]
```diff
@@ -160,9 +163,17 @@ theorem rootsOfUnity_eq_torsion [NumberField K] :
   rw [torsion, mem_rootsOfUnity]
   refine ⟨fun h => ?_, fun h => ?_⟩
   · rw [CommGroup.mem_torsion, isOfFinOrder_iff_pow_eq_one]
-    exact ⟨↑(torsionOrder K), (torsionOrder K).prop, h⟩
+    exact ⟨torsionOrder K, torsionOrder_pos K, h⟩
   · exact Subtype.ext_iff.mp (@pow_card_eq_one (torsion K) _ _ ⟨ζ, h⟩)
 
+theorem even_torsionOrder [NumberField K] :
+    Even (torsionOrder K) := by
```
Comment (urkud) [inline Mathlib/NumberTheory/NumberField/Units/Basic.lean:170]: Please mention this in the commit message.

File: Mathlib/NumberTheory/NumberField/Units/Basic.lean [hunk 3]
```diff
@@ -135,8 +135,18 @@ instance : Nonempty (torsion K) := One.instNonempty
...
 instance [NumberField K] : IsCyclic (torsion K) := subgroup_units_cyclic _
 
-/-- The order of the torsion subgroup as a positive integer. -/
-def torsionOrder [NumberField K] : ℕ+ := ⟨Fintype.card (torsion K), Fintype.card_pos⟩
+/-- The order of the torsion subgroup. -/
+def torsionOrder [NumberField K] : ℕ := Fintype.card (torsion K)
+
+instance [NumberField K] : NeZero (torsionOrder K) := by
+  unfold torsionOrder
+  infer_instance
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units/Basic.lean:143]: Can you use `inferInstanceAs` here?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/NumberField/Units/Basic.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Units/Basic.lean]: Oh, yes, I didn't think about that. Thanks!
There is still one last (coming soon) PR before #17914 is ready for review.
